US05719151
Synthesis of 3-formylaminobenzamide (Compound 1)
A mixture of 40 ml of acetic anhydride and 40 ml of 98 to 100% formic acid was heated at 50° to 60° C. for 90 minutes. The solution was cooled to room temperature and 10 gm of 3-aminobenzamide was added in small aliquots over 15 minutes. The temperature was kept below 30° C. by occasional cooling in an ice-bath during the addition of the 3-aminobenzamide. The solution was stirred at room temperature for 2.5 hours, and then it was evaporated under vacuum to a viscous oil. Traces of acetic anhydride and of formic acid were removed by the repeated addition of water and evaporation until a white solid product was obtained. The solid product was crystallized from water. The white, round crystals were filtered off and washed with cold water and then dried under a vacuum. The overall yield was 78% and the melting point of the final material was 175° C. to 177° C. Mass spectrum analysis indicated a molecular weight of 164.

reactant | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-aminobenzamide | 10 gm | NC=1C=C(C(=O)N)C=CC1 | C7H8N2O
solvent | formic acid | 40 ml | C(=O)O | CH2O2
product | 3-formylaminobenzamide | yield was 78% | C(=O)NC=1C=C(C(=O)N)C=CC1 | C8H8N2O2
